US06770646B2
d) 2,6-Dihydro-2-methyl-6-(1-naphthalenylmethyl)-4-(2-propyl)amino-1H-pyrrolo[3,4-d]pyridazin-1-one
Isopropylamine (1 ml) was added to a solution of 4-chloro-2,6-dihydro-2-methyl-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyridazine-1-one (0.095 g) in ethanol (4 ml) and the mixture was heated in a sealed tube at 200° C. for 3 days then at 250° C. for 24 hours. The mixture was evaporated and the residue was purified by column chromatography, eluting with ethyl acetate followed by recrystallisation from ethyl acetate/isohexane to give the title compound (0.013 g).

reactant | Isopropylamine | 1 ml | C(C)(C)N | C3H9N
reactant | 4-chloro-2,6-dihydro-2-methyl-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyridazine-1-one | 0.095 g | ClC=1C=2C(C(N(N1)C)=O)=CN(C2)CC2=CC=CC1=CC=CC=C21 | C18H14ClN3O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 2,6-Dihydro-2-methyl-6-(1-naphthalenylmethyl)-4-(2-propyl)amino-1H-pyrrolo[3,4-d]pyridazin-1-one | 0.013 g | CN1N=C(C=2C(C1=O)=CN(C2)CC2=CC=CC1=CC=CC=C21)NC(C)C | C21H22N4O
